US08735440B2
Step 1. Synthesis of 3-(pyridin-2-yloxy)propane-1,2-diol
Following a literature procedure2, a solution of solketal (1.25 mL, 0.01 mol) in THF (20 mL) was stirred and cooled to 0° C. under N2 and KOtBu (1.349 g, 0.012 mol) was added. The mixture was stirred 15 min, 2-bromopyridine (1.1 mL, 0.011 mol) was added, and the mixture was stirred 18 h at room temperature, diluted with H2O, and extracted with CH2Cl2. The combined extracts were dried (Na2SO4), filtered, and evaporated to give the crude title product (288.1 mg, 17%).

reactant | solketal | 0.01 mol, 1.25 mL | CC1(OCC(O1)CO)C | C6H12O3
reactant | KOtBu | 0.012 mol, 1.349 g | CC(C)(C)[O-].[K+]
reactant | 2-bromopyridine | 0.011 mol, 1.1 mL | BrC1=NC=CC=C1 | C5H4BrN
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(pyridin-2-yloxy)propane-1,2-diol | 288.1 mg, 17% | N1=C(C=CC=C1)OCC(CO)O | C8H11NO3
